US08491868B2
Preparation of Methyl 4-(2-Fluoroethoxy)3,5-dihydroxybenzoate
To a 100 mL round bottom flask was added methyl 3,4,5-trihydroxybenzoate (7.00 g, 88.0 mmol) followed by 25 mL of dimethyl sulfoxide. Potassium Carbonate (7.88 g, 57.0 mmol), potassium iodide (31.6 mg, 0.19 mmol) and 1-bromo-2-fluoroethane (5.79 g, 45.6 mmol) were successively added followed by 25 mL more of dimethyl sulfoxide. The reaction mixture was stirred for 18 h after which it was diluted by adding water (100 mL). The mixture was poured into a separatory funnel and extracted with DCM (3×40 mL). The organic layer was then washed with water (4×120 mL) and brine, and dried over magnesium sulfate. The organic layer was then concentrated to obtain an oil. The crude oil was purified using silica gel flash chromatography (DCM/ether 39:1) to obtain 1.9 g (22%) of the title compound (Rf˜0.17 in 19:1 DCM/ether). 1H NMR (600 MHz, CDCl3): δ 7.25 (s, 2H), 5.96 (s, 2H), 4.7 (t of d, 2H, J=48, 1.2 Hz), 4.37 (t of d, 2H, J=24, 1.2 Hz), 3.87 (s, 3H). 13C NMR (150 MHz, CDCl3): δ 166.8, 149, 136.8, 126.4, 109.8, 82.16 (d, J=334 Hz), 72.6 (d, J=37.5), 52.3. MS (ESI): 231.4 (M+H, 100); FIRMS: Calc'd for C10H11FO5 (M+H): 231.06633; Found: 231.0664.

reactant | methyl 3,4,5-trihydroxybenzoate | 88.0 mmol, 7.00 g | OC=1C=C(C(=O)OC)C=C(C1O)O | C8H8O5
reactant | dimethyl sulfoxide | 25 mL | CS(=O)C | C2H6OS
reactant | Potassium Carbonate | 57.0 mmol, 7.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-fluoroethane | 45.6 mmol, 5.79 g | BrCCF | C2H4BrF
catalyst | potassium iodide | 0.19 mmol, 31.6 mg | [I-].[K+]
solvent | water | 100 mL | O | H2O
product | Methyl 4-(2-Fluoroethoxy)3,5-dihydroxybenzoate | 1.9 g, 22% | FCCOC1=C(C=C(C(=O)OC)C=C1O)O | C10H11FO5
